US08686184B2
5′-((1R,2R)-1-Benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic Acid (R1═—OCH2CH3)
5′-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic acid t-butyl ester (100 mg, 192 μmol, 1.0 eq.) was combined with 1:1 TFA/DCM (1 mL each) and stirred for 1 hour. The solvent was evaporated and THF (3 mL) and 1 M aqueous NaOH (577 μL, 3.0 eq.) were added. The mixture was stirred for 2 hours and EtOAc was added. The aqueous was extracted and the organic was washed with NaOH (0.2 mL), stirred, and the aqueous was extracted. The aqueous were acidified to pH ˜5 with concentrated HCl to yield a gummy solid. The aqueous was removed and the gummy solid was dissolved in AcOH and purified by preparative HPLC to yield the title compound (11.6 mg, 99% purity). MS m/z [M+H]+ calc'd for C26H24FNO6, 466.16. found 466.2.

reactant | 5′-((1R,2R)-1-benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic acid t-butyl ester | 192 μmol, 100 mg, 1.0 eq. | C(C)(C)(C)OC(=O)C=1C(=CC=CC1)C1=C(C=CC(=C1)C(N[C@@H]([C@@H](O)C(=O)OCC)CC1=CC=CC=C1)=O)F | C30H32FNO6
reactant | TFA DCM | 1 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1 M, 577 μL, 3.0 eq. | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5′-((1R,2R)-1-Benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-2′-fluoro-biphenyl-2-carboxylic Acid | 11.6 mg, 99% | C(C1=CC=CC=C1)[C@H]([C@@H](O)C(=O)OCC)NC(=O)C=1C=CC(=C(C1)C=1C(=CC=CC1)C(=O)O)F | C26H24FNO6
